### ISSUE TITLE
[BUG] Lemmas are not extracted as a declaration

### ISSUE THREAD

**Issue by BorjaRequena** [augustepoiroux/LeanInteract#41]
**Describe the bug**
Lemmas within a piece of code are not returned as a declaration.

**To Reproduce**
Your environment:
- OS: macOS
- Python version 3.12.5
- LeanInteract version 0.11.0

Similar to #40, when processing a piece of code that contains a lemma, it is not captured as a declaration.
```python
# Using the code example from the documentation
code_with_theorem  = """
theorem ex (n : Nat) : n = 5 → n = 5 := by
  intro h
  exact h
"""

res = server.run(Command(cmd=code_with_theorem, declarations=True))
print(len(res.declarations)) # 1 -> the declaration is found

# Replace theorem by lemma, should be fine but nope :'(
code_with_lemma  = """
lemma ex (n : Nat) : n = 5 → n = 5 := by
  intro h
  exact h
"""

res = server.run(Command(cmd=code_with_lemma, declarations=True))
print(len(res.declarations)) # 0 -> no declarations are found
```

**Expected behavior**
I would expect the lemma to be captured in the same way that theorems are, and returned as a declaration of kind lemma.

**Additional context**
It would be greatly thankful if I could take any arbitrary piece of code and extract all the declarations therein (theorems, defs, noncomputable stuff, lemmas, instances, structures, etc. which most of them already are). Let me know if you need anything else or if I could help somehow.

**Comment by augustepoiroux** [comment]
Hello!
Yes indeed, `lemma` is a keyword that is specific to Mathlib and not native to Lean. If you try to execute a piece of code with `lemma` without Mathlib, it will fail as you can see [here](https://live.lean-lang.org/#codez=DYUwtmCGAEIB7QBQDtoC5oDlIBcCU60qAvNAKzSBJhEdKRWqQEYCeAUNNAJbI4BOA9tAAW7WHEgBjHMKA).
For this extraction to [work](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQP0CmIIScBAHnABQB2cAXHAHIoCUDcdAvHAKxyAkwk5we/ejywBPHHDjAaMKBDioZZckgDG8VEA), you need to both import Mathlib and to make sure that you use a LeanInteract configuration using Mathlib as a dependency (see my comment here for another related issue: https://github.com/augustepoiroux/LeanInteract/issues/40#issuecomment-4231175206)

**Comment by BorjaRequena** [comment]
Thanks @augustepoiroux! I was missing the dependency. Solved 😄
